US05041455
B. 3-(4-cyclopropylmethoxy-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (0.25 ml, 4 mmol) and 3-(4-cyclopropylmethoxy-1,2,5-thiadiazol-3-yl)pyridine (400 mg, 1.7 mmol) in acetone (5 ml) was stirred at room temperature for 36 h. The title compound precipitated from the solution and was collected by filtration to yield 0.41 g (65%).

reactant | methyl iodide | 4 mmol, 0.25 ml | CI | CH3I
reactant | 3-(4-cyclopropylmethoxy-1,2,5-thiadiazol-3-yl)pyridine | 1.7 mmol, 400 mg | C1(CC1)COC=1C(=NSN1)C=1C=NC=CC1 | C11H11N3OS
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(4-cyclopropylmethoxy-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C1(CC1)COC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C12H14N3OS.HI/c1-15-6-2-3-10(7-15)11-12(14-17-13-11)16-8-9-4-5-9;/h2-3,6-7,9H,4-5,8H2,1H3;1H/q+1;/p-1
